US05557017
Into a 1 l four-necked flask equipped with a stirrer, a reflux condenser, a dropping funnel and a thermometer, 256 g of methanol, 3 g of isopropyl alcohol and 46.4 g (1.16 mol) of sodium hydroxide were charged. The reactor was heated to bring the internal temperature to 60° C. Then, 223 g (0.5 mol) of C6F13I was dropwise added thereto over a period of one hour. After completion of the dropwise addition, heating and refluxing were continued for 6 hours. The conversion was more than 99.9%. The reactor was cooled to room temperature, and then, 300 g of water was added to dissolve precipitated sodium iodide. The crude reaction solution was separated into two layers, and the fluorocarbon layer (lower layer) was further washed twice with 300 g of water to obtain 145 g (purity: 99.9%) of C6F13H. In the reactor, no formation of tar was observed.

reactant | methanol | 256 g | CO | CH4O
reactant | isopropyl alcohol | 3 g | C(C)(C)O | C3H8O
reactant | sodium hydroxide | 1.16 mol, 46.4 g | [OH-].[Na+]
reactant | C6F13I | 0.5 mol, 223 g | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F)I | C6F13I
solvent | water | 300 g | O | H2O
product | C6F13H | 145 g | C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F | C6HF13
